US05286902
To a suspension of 31.71 g 2-hydroxy-6-(1-methylethyl)naphthalene in 500 ml water and under a nitrogen atmosphere was added 61.5 g of 14.4% (by weight) sodium hydroxide (NaOH). The mixture was heated to 60° C. and 30.02 g of dimethylsulfate was added in one portion to the dark cloudy solution. In 20 minutes the pH of the reaction had dropped from 13 to 2. Another 20 g 14.4% NaOH was added. After 45 minutes 10 g additional dimethylsulfate was added. After 1 hour 20 g of 14.4% NaOH was added and the reaction was heated at 80° C. overnight. The brown suspension was then extracted with toluene and the extract was dried over magnesium sulfate (MgSO4), filtered, and concentrated in vacuum to give a crude solid which was recrystallized from isopropanol to give 2-methoxy-6-isopropylnaphthalene, melting point 63.5° to 64.5° C.

reactant | 2-hydroxy-6-(1-methylethyl)naphthalene | 31.71 g | OC1=CC2=CC=C(C=C2C=C1)C(C)C | C13H14O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethylsulfate | 30.02 g | COS(=O)(=O)OC | C2H6O4S
reactant | NaOH | 20 g | [OH-].[Na+]
reactant | dimethylsulfate | 10 g | COS(=O)(=O)OC | C2H6O4S
reactant | NaOH | 20 g | [OH-].[Na+]
solvent | water | 500 ml | O | H2O
product | 2-methoxy-6-isopropylnaphthalene | COC1=CC2=CC=C(C=C2C=C1)C(C)C | C14H16O
